US06458780B1
N,O-Dimethylhydroxylamine hydrochloride (0.23 g) and 0.56 ml of triethylamine were added to a solution of 0.44 g of 7-chlorosulfonylimidazo[5,1-b]thiazole in 5 ml of DMF. The mixture was stirred at room temperature for one hr. Ethyl acetate was added thereto, followed by washing with water and saturated brine in that order. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:2) to give 0.44 g of 7-(N-methoxy-N-methylsulfamoyl)imidazo[5,1-b]thiazole.

reactant | N,O-Dimethylhydroxylamine hydrochloride | 0.23 g | Cl.CNOC
reactant | triethylamine | 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | 7-chlorosulfonylimidazo[5,1-b]thiazole | 0.44 g | ClS(=O)(=O)C=1N=CN2C1SC=C2 | C5H3ClN2O2S2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 7-(N-methoxy-N-methylsulfamoyl)imidazo[5,1-b]thiazole | 0.44 g | CON(S(=O)(=O)C=1N=CN2C1SC=C2)C | C7H9N3O3S2
